US09085581B2
To a solution of 2-methyl-4-(triisopropylsilyloxy)aniline (130 g, 465 mmol) in THF (1.0 L) was added di-tert-butyl dicarbonate (102 g, 465 mmol). The resulting reaction mixture was allowed to stir overnight at room temperature and N,N,N′-trimethylethylenediamine (10 mL) was added and stirred for 30 minutes. The mixture was concentrated in vacuo to approximately half the total volume and diluted with MTBE (1.0 L). The resulting mixture was washed with 1 N HCl (2×500 mL), brine (500 mL), dried over MgSO4, and filtered. The mixture was concentrated and purified with silica gel plug filtration (hexanes) and concentrated to give tert-butyl 2-methyl-4-(triisopropylsilyloxy)phenylcarbamate (100 g, 263 mmol, 56.6% yield) as a red oil in approx. 90% purity (1H NMR). Exact mass calculated for C21H37NO3Si: 379.3, found: LCMS m/z=380.4, [M+H]; 1H NMR (400 MHz, CDCl3) δ ppm 1.09 (d, J=7.0 Hz, 18 H), 1.23 (m, 3 H), 1.50 (s, 9 H), 2.18 (s, 3 H), 6.05 (bs, 1 H), 6.69 (m, 2 H), 7.44 (m, 1 H).

reactant | 2-methyl-4-(triisopropylsilyloxy)aniline | 465 mmol, 130 g | CC1=C(N)C=CC(=C1)O[Si](C(C)C)(C(C)C)C(C)C | C16H29NOSi
reactant | di-tert-butyl dicarbonate | 465 mmol, 102 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N,N′-trimethylethylenediamine | 10 mL | CN(CCNC)C | C5H14N2
solvent | THF | 1.0 L | C1CCOC1 | C4H8O
product | tert-butyl 2-methyl-4-(triisopropylsilyloxy)phenylcarbamate | 263 mmol, 100 g, 56.6% yield | CC1=C(C=CC(=C1)O[Si](C(C)C)(C(C)C)C(C)C)NC(OC(C)(C)C)=O | C21H37NO3Si
